US08378104B2
Step A: 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-1H-pyrazole
A mixture of trans-4-(4-iodo-1H-pyrazol-1-yl)-cyclohexanol (1.00 g, 3.42 mmol), tert-butyldimethylsilyl chloride (1.03 g, 6.85 mmol), and DMAP (80 mg, 0.7 mmol), 1H-imidazole (699 mg, 10.3 mmol) in DCM (20 mL) was stirred RT for 20 min. The mixture was diluted with DCM and washed with saturated NaHCO3. The organic layer was dry-loaded onto silica gel. Flash chromatography (3% EtOAc:hexanes) afforded 1.37 g (98%) of the title compound as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ 0.05 (s, 6 H), 0.86 (s, 9 H), 1.33-1.47 (m, 2 H), 1.70-1.91 (m, 4 H), 1.96 (d, J=11.9 Hz, 2 H), 3.58-3.75 (m, 1 H), 4.11-4.21 (m, 1 H), 7.49 (s, 1 H), 7.92 (s, 1 H); MS (ESI): 407.05 [M+H]+; HPLC tR=3.22 min.

reactant | trans-4-(4-iodo-1H-pyrazol-1-yl)-cyclohexanol | 3.42 mmol, 1.00 g | IC=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C9H13IN2O
reactant | tert-butyldimethylsilyl chloride | 6.85 mmol, 1.03 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1H-imidazole | 10.3 mmol, 699 mg | N1C=NC=C1 | C3H4N2
catalyst | DMAP | 0.7 mmol, 80 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-1H-pyrazole | 1.37 g, 98% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)I | C15H27IN2OSi
